* ============================================================
* CANDIDATE behavioral LDO model  (subckt: ldo_model, ports: vin vout gnd)
* Instance params: iload (OP current), slew_en (0=linear PSS/HB core),
*   vdd    = supply DC operating point [V] (default 1.05 = characterized nominal);
*            sets the PSRR DC reference AND shifts Vout DC along the characterized
*            dc_linereg curve (clamped to its measured span [0.9,1.3]V)
*   voutdc = direct Vout DC override [V] (0 = use the characterized DC; >0 pins
*            Vout(iload) to this value, small-signal blocks unchanged)
* Fitted to ground-truth by harness/fit_model.py. All linear/passive +
* controlled sources -> PSS/HB-robust (NO laplace_nd). OP-parameterized by iload
* via quadratic-in-ln(iload) interpolation through corners {20u,121u,250u}.
*   Zout = (R_a + sL_a||R_pl) || (R_b+sL_b) || (ESR+1/sCout)  Cout/ESR auto-extracted;
*          R_pl damps the L rise (inf=peak / finite=plateau); branch B (R_b->inf=off)
*          adds a 2nd resonance/roll-off for multi-pole LDOs (engaged only if it helps)
*   PSRR = i_c*Zout, i_c = G0 + sum Gi/(1+s/wi) [real bank] + one signed COMPLEX 2nd-
*          order section (b0+b1 s)/(1+s/(Q w0)+(s/w0)^2): shelf (1 real)=min-phase, 3 real
*          =non-min-phase mag, + complex section = non-min-phase / notch PHASE (V4/V3).
*          LP filter Rs are noiseless VCCS-conductances (no thermal noise from signal path)
*   Noise= DECOUPLED Norton @vout: white + 6 Lorentzian current sections fit to
*          In=Sv/|Zout| -> output PSD = In*|Zout| exactly, independent of Zout synthesis
* ============================================================
.subckt ldo_model vin vout gnd iload=121u slew_en=0 vdd=1.05 voutdc=0
.param ic = {min(max(iload,20u),250u)}
.param u  = {ln(ic)}
.param VREG121 = 9.013185e-01    $ nominal-corner Vreg (DC-curve table reference)
.param R_a = {min(max(exp((1.540356e-01)*u*u + (2.331432e+00)*u + (1.165222e+01)),1.829327e+01),8.685346e+01)}
.param L_a = {min(max(exp((-1.090176e+00)*u*u + (-1.919145e+01)*u + (-9.613509e+01)),1.000959e-07),8.127593e-06)}
.param R_pl = {min(max(exp((1.077304e+00)*u*u + (1.864909e+01)*u + (8.478372e+01)),6.745148e+01),9.201875e+03)}
.param R_b = {min(max(exp((1.392200e-16)*u*u + (4.129372e-15)*u + (2.072327e+01)),9.950249e+08),1.005000e+09)}
.param L_b = {min(max(exp((6.069877e-16)*u*u + (6.085391e-15)*u + (-2.763102e+01)),9.950249e-13),1.005000e-12)}
.param G0 = {min(max((-1.215984e-04)*u*u + (-5.928100e-03)*u + (-4.934817e-02),-8.590636e-03),6.028336e-04)}
.param G1 = {min(max((1.033253e-03)*u*u + (3.615064e-02)*u + (2.696564e-01),-7.322559e-04),4.110703e-02)}
.param w1 = {min(max(exp((-1.169794e+00)*u*u + (-2.025355e+01)*u + (-6.711256e+01)),3.528403e+06),7.272295e+08)}
.param G2 = {min(max((1.122607e-04)*u*u + (1.747868e-03)*u + (5.769456e-03),-1.009920e-03),5.024476e-06)}
.param w2 = {min(max(exp((1.373705e+00)*u*u + (2.384286e+01)*u + (1.178813e+02)),2.145105e+06),1.005000e+09)}
.param G3 = {min(max((4.253432e-05)*u*u + (4.878568e-04)*u + (2.991113e-04),-8.253136e-04),4.106038e-06)}
.param w3 = {min(max(exp((3.808934e-01)*u*u + (6.590686e+00)*u + (4.744276e+01)),1.743239e+08),1.005000e+09)}
.param pcb0 = {min(max((-9.300800e-04)*u*u + (-2.928750e-02)*u + (-2.080020e-01),-2.921677e-02),1.453571e-04)}
.param pcb1 = {min(max((1.191730e-12)*u*u + (3.835550e-11)*u + (2.754851e-10),-1.967162e-13),3.953996e-11)}
.param pcw0 = {min(max(exp((-1.941773e+00)*u*u + (-3.361940e+01)*u + (-1.242362e+02)),1.977032e+05),1.362669e+09)}
.param pcq = {min(max(exp((-6.156797e-01)*u*u + (-1.069429e+01)*u + (-4.363372e+01)),9.950249e-01),1.551718e+01)}
.param gnw = {min(max(exp((-4.246784e-02)*u*u + (-5.575011e-01)*u + (-8.022835e+00)),9.421067e-04),1.808384e-03)}
.param gn1 = {min(max(exp((-1.581889e-01)*u*u + (-2.413758e+00)*u + (-8.736999e+00)),3.183970e-01),1.500507e+00)}
.param gn2 = {min(max(exp((-1.550839e-01)*u*u + (-2.359398e+00)*u + (-9.864785e+00)),8.233869e-02),3.831788e-01)}
.param gn3 = {min(max(exp((-1.677612e-01)*u*u + (-2.581228e+00)*u + (-1.204329e+01)),2.329825e-02),1.141795e-01)}
.param gn4 = {min(max(exp((-1.451662e-01)*u*u + (-2.185850e+00)*u + (-1.104754e+01)),1.232186e-02),5.506870e-02)}
.param gn5 = {min(max(exp((4.384268e-01)*u*u + (8.153572e+00)*u + (2.026961e+01)),2.249557e-08),6.055773e-08)}
.param gn6 = {min(max(exp((-5.831737e+00)*u*u + (-1.106267e+02)*u + (-5.366716e+02)),1.818838e-10),1.695190e-06)}
.param vreg = {min(max((1.405115e-04)*u*u + (1.302206e-03)*u + (9.016327e-01),9.004806e-01),9.040099e-01)}
* ---- R3-L1: settable supply / output DC (defaults reproduce the characterized DC) ----
.param vddc = {min(max(vdd,9.000000e-01),1.300000e+00)}    $ vdd clamped to the dc_linereg span
.param lrsh = {(-9.641010e+00)*vddc*vddc*vddc*vddc + (4.378899e+01)*vddc*vddc*vddc + (-7.433767e+01)*vddc*vddc + (5.590457e+01)*vddc + (-1.481593e+01) - (8.991185e-01)}    $ DC line-reg shift vs characterized nominal
.param vregeff = {vreg + lrsh + ((voutdc > 0) ? (voutdc - (vreg + lrsh - R_a*ic)) : 0)}
.param COUT=1.000919e-08 ESR=1.380686e-01    $ auto-extracted physical output cap / ESR
.param Cps=1p Rp1={1/(w1*Cps)} Rp2={1/(w2*Cps)} Rp3={1/(w3*Cps)}
* complex PSRR section: a1=1/(Q.w0), a2=1/w0^2 ; series R-L-C w/ Cpc fixed -> Rpc,Lpc
.param Cpc=1p pca1={1/(pcq*pcw0)} pca2={1/(pcw0*pcw0)}
.param Rpc={pca1/Cpc} Lpc={pca2/Cpc} gqb1={pcb1/pca1}
*
* ---- DC operating point: regulated Vreg (constant per instance; vregeff adds the
*      R3-L1 vdd line-reg shift / voutdc override). AC vin->vout coupling is handled
*      ENTIRELY by the PSRR path below (small-signal-consistent: its DC limit
*      g_lf*R_a = the measured PSRR LF). A broadband line-reg term here would
*      create a parasitic flat PSRR floor, so it is intentionally omitted.
Breg vreg gnd V = {vregeff}
*
* ---- Zout: branch A (R_a + L_a) || branch C (ESR+Cout) || branch B (opt) ----
La   vout nA  {L_a}
Rpl  vout nA  {R_pl}            $ damping across L_a (R_pl->inf = peak; finite = plateau)
* branch-A conductance: linear R_a (slew_en=0, PSS/HB) OR nonlinear DC-curve w/
* current-limit+dropout (slew_en=1). La in series stays -> resonance + di/dt slew.
Bra  vreg nA I = {(slew_en > 0.5) ? pwl(V(vreg,nA)-(vregeff-VREG121),-5.183820e-03,1.000000e-06,-1.648553e-03,1.300000e-05,-5.597243e-04,2.500000e-05,1.538227e-04,3.700000e-05,7.035337e-04,4.900000e-05,1.161083e-03,6.100000e-05,1.559614e-03,7.300000e-05,1.917253e-03,8.500000e-05,2.245034e-03,9.700000e-05,2.550201e-03,1.090000e-04,2.837783e-03,1.210000e-04,3.111424e-03,1.330000e-04,3.373854e-03,1.450000e-04,3.627174e-03,1.570000e-04,3.873039e-03,1.690000e-04,4.112774e-03,1.810000e-04,4.347458e-03,1.930000e-04,4.577976e-03,2.050000e-04,4.805068e-03,2.170000e-04,5.029350e-03,2.290000e-04,5.251348e-03,2.410000e-04,5.471507e-03,2.530000e-04,5.690207e-03,2.650000e-04,5.907779e-03,2.770000e-04,6.124508e-03,2.890000e-04,6.340640e-03,3.010000e-04,6.556395e-03,3.130000e-04,6.771961e-03,3.250000e-04,6.987509e-03,3.370000e-04,7.203188e-03,3.490000e-04,7.419132e-03,3.610000e-04,7.635462e-03,3.730000e-04,7.852287e-03,3.850000e-04,8.069707e-03,3.970000e-04,8.287811e-03,4.090000e-04,8.506686e-03,4.210000e-04,8.726410e-03,4.330000e-04,8.947057e-03,4.450000e-04,9.168699e-03,4.570000e-04,9.391404e-03,4.690000e-04,9.615240e-03,4.810000e-04,9.840273e-03,4.930000e-04,9.989295e-03,5.010000e-04,1.036853e-02,5.210000e-04,1.075170e-02,5.410000e-04,1.113916e-02,5.610000e-04,1.153127e-02,5.810000e-04,1.192845e-02,6.010000e-04,1.233116e-02,6.210000e-04,1.273996e-02,6.410000e-04,1.315550e-02,6.610000e-04,1.357858e-02,6.810000e-04,1.401015e-02,7.010000e-04,1.445141e-02,7.210000e-04,1.490384e-02,7.410000e-04,1.536935e-02,7.610000e-04,1.585040e-02,7.810000e-04,1.635022e-02,8.010000e-04,1.687311e-02,8.210000e-04,1.742486e-02,8.410000e-04,1.801338e-02,8.610000e-04,1.864950e-02,8.810000e-04,1.934803e-02,9.010000e-04,2.012876e-02,9.210000e-04,2.101715e-02,9.410000e-04,2.204327e-02,9.610000e-04,2.323806e-02,9.810000e-04,2.462632e-02,1.001000e-03,2.621940e-02,1.021000e-03,2.801250e-02,1.041000e-03,2.998828e-02,1.061000e-03,3.212354e-02,1.081000e-03,3.439458e-02,1.101000e-03,3.678008e-02,1.121000e-03,3.926197e-02,1.141000e-03,4.182542e-02,1.161000e-03,4.445843e-02,1.181000e-03,4.715127e-02,1.201000e-03,4.989609e-02,1.221000e-03,5.268651e-02,1.241000e-03,5.551731e-02,1.261000e-03,5.838417e-02,1.281000e-03,6.128351e-02,1.301000e-03,6.421236e-02,1.321000e-03,6.716819e-02,1.341000e-03,7.014885e-02,1.361000e-03,7.315254e-02,1.381000e-03,7.617767e-02,1.401000e-03,7.922290e-02,1.421000e-03,8.228705e-02,1.441000e-03,8.536908e-02,1.461000e-03,8.846811e-02,1.481000e-03,9.158333e-02,1.501000e-03,9.471405e-02,1.521000e-03,9.785963e-02,1.541000e-03,1.010195e-01,1.561000e-03,1.041932e-01,1.581000e-03,1.073803e-01,1.601000e-03,1.105804e-01,1.621000e-03,1.137930e-01,1.641000e-03,1.170180e-01,1.661000e-03,1.202549e-01,1.681000e-03,1.235036e-01,1.701000e-03,1.267638e-01,1.721000e-03,1.300352e-01,1.741000e-03,1.333177e-01,1.761000e-03,1.366111e-01,1.781000e-03,1.399152e-01,1.801000e-03,1.432299e-01,1.821000e-03,1.465551e-01,1.841000e-03,1.498907e-01,1.861000e-03,1.532364e-01,1.881000e-03,1.565923e-01,1.901000e-03,1.599583e-01,1.921000e-03,1.633343e-01,1.941000e-03,1.667202e-01,1.961000e-03,1.701159e-01,1.981000e-03,1.735215e-01,2.001000e-03,1.769369e-01,2.021000e-03,1.803621e-01,2.041000e-03,1.837971e-01,2.061000e-03,1.872418e-01,2.081000e-03,1.906962e-01,2.101000e-03,1.941605e-01,2.121000e-03,1.976345e-01,2.141000e-03,2.011184e-01,2.161000e-03,2.046121e-01,2.181000e-03,2.081157e-01,2.201000e-03,2.116294e-01,2.221000e-03,2.151531e-01,2.241000e-03,2.186869e-01,2.261000e-03,2.222310e-01,2.281000e-03,2.257854e-01,2.301000e-03,2.293503e-01,2.321000e-03,2.329259e-01,2.341000e-03,2.365123e-01,2.361000e-03,2.401097e-01,2.381000e-03,2.437183e-01,2.401000e-03,2.473383e-01,2.421000e-03,2.509700e-01,2.441000e-03,2.546138e-01,2.461000e-03,2.582698e-01,2.481000e-03,2.619386e-01,2.501000e-03,2.656204e-01,2.521000e-03,2.693157e-01,2.541000e-03,2.730250e-01,2.561000e-03,2.767488e-01,2.581000e-03,2.804878e-01,2.601000e-03,2.842425e-01,2.621000e-03,2.880136e-01,2.641000e-03,2.918020e-01,2.661000e-03,2.956085e-01,2.681000e-03,2.994339e-01,2.701000e-03,3.032794e-01,2.721000e-03,3.071459e-01,2.741000e-03,3.110346e-01,2.761000e-03,3.149469e-01,2.781000e-03,3.188840e-01,2.801000e-03,3.228473e-01,2.821000e-03,3.268386e-01,2.841000e-03,3.308593e-01,2.861000e-03,3.349113e-01,2.881000e-03,3.389965e-01,2.901000e-03,3.431168e-01,2.921000e-03,3.472743e-01,2.941000e-03,3.514713e-01,2.961000e-03,3.557101e-01,2.981000e-03,3.599933e-01,3.001000e-03,3.643235e-01,3.021000e-03,3.687036e-01,3.041000e-03,3.731365e-01,3.061000e-03,3.776256e-01,3.081000e-03,3.821741e-01,3.101000e-03,3.867860e-01,3.121000e-03,3.914650e-01,3.141000e-03,3.962156e-01,3.161000e-03,4.010425e-01,3.181000e-03,4.059506e-01,3.201000e-03,4.109456e-01,3.221000e-03,4.160335e-01,3.241000e-03,4.212209e-01,3.261000e-03,4.265152e-01,3.281000e-03,4.319245e-01,3.301000e-03,4.374576e-01,3.321000e-03,4.431245e-01,3.341000e-03,4.489363e-01,3.361000e-03,4.549052e-01,3.381000e-03,4.610449e-01,3.401000e-03,4.674708e-01,3.421000e-03,4.740095e-01,3.441000e-03,4.807720e-01,3.461000e-03,4.877798e-01,3.481000e-03,4.950572e-01,3.501000e-03,5.026312e-01,3.521000e-03,5.105317e-01,3.541000e-03,5.187920e-01,3.561000e-03,5.274482e-01,3.581000e-03,5.365397e-01,3.601000e-03,5.461082e-01,3.621000e-03,5.561973e-01,3.641000e-03,5.668511e-01,3.661000e-03,5.781125e-01,3.681000e-03,5.900212e-01,3.701000e-03,6.026109e-01,3.721000e-03,6.159070e-01,3.741000e-03,6.299249e-01,3.761000e-03,6.446682e-01,3.781000e-03,6.601293e-01,3.801000e-03,6.762902e-01,3.821000e-03,6.931251e-01,3.841000e-03,7.106032e-01,3.861000e-03,7.286912e-01,3.881000e-03,7.473557e-01,3.901000e-03,7.665649e-01,3.921000e-03,7.862897e-01,3.941000e-03,8.065036e-01,3.961000e-03,8.271828e-01,3.981000e-03,8.483062e-01,4.001000e-03,8.698545e-01,4.021000e-03,8.918100e-01,4.041000e-03,9.141559e-01,4.061000e-03,9.368763e-01,4.081000e-03,9.599561e-01,4.101000e-03,9.833809e-01,4.121000e-03,1.007136e+00,4.141000e-03,1.031209e+00,4.161000e-03,1.055435e+00,4.181000e-03,1.080105e+00,4.201000e-03,1.105054e+00,4.221000e-03,1.130267e+00,4.241000e-03,1.155731e+00,4.261000e-03,1.181435e+00,4.281000e-03,1.207365e+00,4.301000e-03,1.233511e+00,4.321000e-03,1.259861e+00,4.341000e-03,1.286404e+00,4.361000e-03,1.313130e+00,4.381000e-03,1.340028e+00,4.401000e-03,1.367090e+00,4.421000e-03,1.394305e+00,4.441000e-03,1.421664e+00,4.461000e-03,1.449159e+00,4.481000e-03,1.476781e+00,4.501000e-03,1.504523e+00,4.521000e-03,1.532377e+00,4.541000e-03,1.560336e+00,4.561000e-03,1.588392e+00,4.581000e-03,1.616540e+00,4.601000e-03,1.644773e+00,4.621000e-03,1.673084e+00,4.641000e-03,1.701469e+00,4.661000e-03,1.729922e+00,4.681000e-03,1.758437e+00,4.701000e-03,1.787010e+00,4.721000e-03,1.815636e+00,4.741000e-03,1.844311e+00,4.761000e-03,1.873030e+00,4.781000e-03,1.901790e+00,4.801000e-03,1.930586e+00,4.821000e-03,1.959416e+00,4.841000e-03,1.988274e+00,4.861000e-03,2.017160e+00,4.881000e-03,2.046068e+00,4.901000e-03,2.074996e+00,4.921000e-03,2.103942e+00,4.941000e-03,2.132903e+00,4.961000e-03,2.161876e+00,4.981000e-03,2.190859e+00,5.001000e-03,2.219849e+00,5.021000e-03,2.248845e+00,5.041000e-03,2.277844e+00,5.061000e-03,2.306844e+00,5.081000e-03,2.335844e+00,5.101000e-03,2.364842e+00,5.121000e-03,2.393836e+00,5.141000e-03,2.422824e+00,5.161000e-03,2.451805e+00,5.181000e-03,2.480778e+00,5.201000e-03,2.509741e+00,5.221000e-03,2.538693e+00,5.241000e-03,2.567633e+00,5.261000e-03,2.596559e+00,5.281000e-03,2.625470e+00,5.301000e-03,2.654366e+00,5.321000e-03,2.683245e+00,5.341000e-03,2.712106e+00,5.361000e-03,2.740949e+00,5.381000e-03,2.769772e+00,5.401000e-03,2.798575e+00,5.421000e-03,2.827358e+00,5.441000e-03,2.856118e+00,5.461000e-03,2.884856e+00,5.481000e-03,2.913571e+00,5.501000e-03,2.942263e+00,5.521000e-03,2.970930e+00,5.541000e-03,2.999572e+00,5.561000e-03,3.028188e+00,5.581000e-03,3.056779e+00,5.601000e-03,3.085344e+00,5.621000e-03,3.113881e+00,5.641000e-03,3.142392e+00,5.661000e-03,3.170874e+00,5.681000e-03,3.199329e+00,5.701000e-03,3.227755e+00,5.721000e-03,3.256152e+00,5.741000e-03,3.284520e+00,5.761000e-03,3.312859e+00,5.781000e-03,3.341168e+00,5.801000e-03,3.369448e+00,5.821000e-03,3.397696e+00,5.841000e-03,3.425915e+00,5.861000e-03,3.454103e+00,5.881000e-03,3.482259e+00,5.901000e-03,3.510385e+00,5.921000e-03,3.538480e+00,5.941000e-03,3.566543e+00,5.961000e-03,3.594574e+00,5.981000e-03) : V(vreg,nA)/R_a}
Cout vout nC  {COUT}
Resr nC  vreg {ESR}
* ---- optional branch B: 2nd parallel R-L for multi-pole Zout (R_b->inf = off) ----
Lb   vout nbb {L_b}
Rbb  nbb  vreg {R_b}
*
* ---- intrinsic output noise: DECOUPLED Norton current @vout (white + 6 Lorentzians).
* Each section = fixed R||C thermal noise (sets corner) x VCCS gm (sets amplitude),
* injected at vout so output PSD = In(f)*|Zout(f)|. Decoupled from the Zout branches
* above -> immune to branch-B re-shaping; fit to In=Sv/|Zout| across load corners.
Rnw  nw gnd 1.000000e+06
Gnw  gnd vout nw gnd {gnw}      $ white floor
Rn1  nk1 gnd 1.000000e+06
Cn1  nk1 gnd 9.212026e-09        $ corner 17.28 Hz
Gn1  gnd vout nk1 gnd {gn1}
Rn2  nk2 gnd 1.000000e+06
Cn2  nk2 gnd 7.181261e-10        $ corner 221.6 Hz
Gn2  gnd vout nk2 gnd {gn2}
Rn3  nk3 gnd 1.000000e+06
Cn3  nk3 gnd 5.696527e-11        $ corner 2794 Hz
Gn3  gnd vout nk3 gnd {gn3}
Rn4  nk4 gnd 1.000000e+06
Cn4  nk4 gnd 5.418908e-13        $ corner 2.937e+05 Hz
Gn4  gnd vout nk4 gnd {gn4}
Rn5  nk5 gnd 1.000000e+06
Cn5  nk5 gnd 2.709026e-13        $ corner 5.875e+05 Hz
Gn5  gnd vout nk5 gnd {gn5}
Rn6  nk6 gnd 1.000000e+06
Cn6  nk6 gnd 7.378643e-16        $ corner 2.157e+08 Hz
Gn6  gnd vout nk6 gnd {gn6}
*
* ---- PSRR path: i_c = G0 + sum_i Gi*LP_i(vin-vdd), injected into vout (x Zout).
*      Bank of signed first-order real-pole sections (+ one complex section below).
*      The LP filter resistors are realized as NOISELESS VCCS-conductances (Grp*),
*      NOT physical R: the PSRR coupling is a signal-transfer path, so its filter
*      elements must contribute NO thermal noise (else they corrupt the decoupled
*      Norton noise block). This matches the Verilog-A mirror (which is already
*      noiseless) and is I-V identical to a resistor in .op/.dc/.ac/.tran. ----
Vrf  vrf gnd DC {vdd}              $ supply DC reference (settable; default = fit vin)
Gd   gnd vout vin vrf {G0}         $ feedthrough  G0*(vin-vdd)
Grp1 vin np1 vin np1 {1/Rp1}   $ noiseless conductance (= 1/Rp1)
Cp1  np1 vrf {Cps}             $ np1 = LP1(vin), DC-referenced to vdd
Gs1  gnd vout np1 vrf {G1}         $ G1*(LP1(vin)-vdd)
Grp2 vin np2 vin np2 {1/Rp2}
Cp2  np2 vrf {Cps}
Gs2  gnd vout np2 vrf {G2}         $ G2*(LP2(vin)-vdd)  (0 if min-phase)
Grp3 vin np3 vin np3 {1/Rp3}
Cp3  np3 vrf {Cps}
Gs3  gnd vout np3 vrf {G3}         $ G3*(LP3(vin)-vdd)  (0 if min-phase)
* ---- PSRR complex-conjugate 2nd-order section: carries non-min-phase / notch
*      PHASE that the real shelf cannot. Series Rpc-Lpc-Cpc lowpass state x=V(ncs2,vrf);
*      Gqb0 reads V_C=x, Gqb1 reads V_R=a1*dx/dt -> i_c += (pcb0+pcb1 s)/(1+a1 s+a2 s^2).
*      Inert when pcb0=pcb1=0 (min-phase variants). Rpc is a NOISELESS VCCS-conductance
*      (Grpc); Lpc/Cpc are noiseless -> the whole section adds no thermal noise. No laplace.
Grpc vin  ncs1 vin ncs1 {1/Rpc}    $ noiseless conductance (= 1/Rpc)
Lpc  ncs1 ncs2 {Lpc}
Cpc  ncs2 vrf  {Cpc}
Gqb0 gnd vout ncs2 vrf {pcb0}      $ inject b0*x
Gqb1 gnd vout vin  ncs1 {gqb1}     $ inject b1*dx/dt = (b1/a1)*V_R

.ends ldo_model

